2136-08-26 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2136-8-25**] 05:25 PM
 DIALYSIS CATHETER - START [**2136-8-25**] 05:38 PM
   Sterile dsg affixed over HD cath with report of yellow pus draining
   from site [**Name6 (MD) **] [**Name8 (MD) **] RN hand off report.
 DIALYSIS CATHETER - STOP [**2136-8-25**] 09:15 PM
   Sterile dsg affixed over HD cath with report of yellow pus draining
   from site [**Name6 (MD) **] [**Name8 (MD) **] RN hand off report.
 EKG - At [**2136-8-26**] 12:31 AM-repeated weh K 7.7, without changes
   -given kayexalte PO, PR, insulin, glucose, CaCl, albuterol nebs X1
   -lost access this am, consider new dialysis line
   -no EKG changes besides slightly peaked Ts, which remains unchanged
   with K levels
 ARTERIAL LINE - START [**2136-8-26**] 02:40 AM
   dampened, but good blood return
   -hyperkalemia-trend K of 7.7
   Allergies:
   Penicillins
   Rash;  Shortnes
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-8-25**] 10:00 PM
   Dextrose 50% - [**2136-8-26**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt denies CP, palpatations, SOB
   Flowsheet Data as of  [**2136-8-26**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 80 (78 - 86) bpm
   BP: 49/32(40) {49/32(40) - 71/49(59)} mmHg
   RR: 9 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    706 mL
                                                                    395 mL
   PO:
                                                                    590 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     66 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                    -94 mL
                                                                    395 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), SEM [**1-22**]
   heard at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: slightly firm, non-tender, no rebound/guarding, not
   tympanitic, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Cyanosis, Clubbing
   Skin:  Warm, plantar aspect of b/l feet with kerototic and
   hyperpigmented rash
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Normal
   Labs / Radiology
   372 K/uL
   13.5 g/dL
   43 mg/dL
   7.2 mg/dL
   26 mEq/L
   6.8 mEq/L
   63 mg/dL
   93 mEq/L
   134 mEq/L
   43.5 %
   6.9 K/uL
        [image002.jpg]
                             [**2136-8-25**]  06:15 PM
                             [**2136-8-26**]  04:06 AM
   WBC
   6.3
   6.9
   Hct
   44.7
   43.5
   Plt
   332
   372
   Cr
   7.2
   Glucose
   43
   Other labs: PT / PTT / INR:14.6/29.8/1.3, Ca++:8.7 mg/dL, Mg++:2.6
   mg/dL, PO4:9.5 mg/dL
[**2136-8-23**] 10:45 am SWAB      CATHETER EXIT SITE.
   WOUND CULTURE (Preliminary):
      STAPH AUREUS COAG +.    HEAVY GROWTH.
         PROTEUS MIRABILIS.    SPARSE GROWTH.
   CXR8/9 PORTABLE SEMI-UPRIGHT CHEST, ONE VIEW: A left-sided dialysis
   catheter
   terminates in the cavo-atrial junction, unchanged. The heart size is in
   the
   upper limits of normal. Otherwise, hilar, and mediastinal contours are
   unremarkable. The lungs are grossly clear without focal consolidation
   or
   pulmonary edema. There is no pleural effusion or pneumothorax. Osseous
   structures are unremarkable.
   IMPRESSION: No acute cardiopulmonary process.
   Assessment and Plan
   A/P:62 yo female with h/o ESRD on HD, multiple line infections,
   Diastolic CHF, IDDM and bilateral DVTs on coumadin who presents from
   dialysis with pus coming from HD site and hyperkalemia
 LINE INFECTION (CENTRAL OR ARTERIAL)-HD line
   - Pt remains afebrile without leukocytosis but line clearly
   demonstrates infection and grew out proteus (sparse growth) and staph
   [**8-24**]-line d/ced by surgery [**8-25**].  It was granulated and difficult for
   removal.
   -f/u line tip culture
    - will cover with Vanc and Tobramycin realizing this is renal toxic
   but pt already on HD
   -f/u blood cultures, wound cultures
   -No ceftriaxone given had reaction in ED (hives)
   -renal following
   -IR to replace line tomorrow so pt can receive HD
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)-Pt with elevated K
   likely [**2-18**] renal failure; currently s/p treatment with Ca gluconate,
   Insulin, dextrose and kayexalate x2, albuterol nebs
   -Continue to treat medically
   -Hold on HD for now per renal
   -Monitor K q4 hours
   -Monitor on tele, EKG q4 as well
   -also send for hemolysis labs to help explain the rise in K after it is
   brought down
   -If unable to get K down or worsening EKG changes will call renal for
   HD
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD) -Pt
   routinely gets HD T,[**Doctor First Name **],Sat but did not complete HD today [**2-18**] presumed
   line infection.  HD line to be removed today per surgery.  Renal aware
   of pt and will give line holiday
   -Plan for new line Monday
   -Continue sevelamer and cinalcalcet per home regimen
 DIABETES MELLITUS (DM), TYPE II-Sugars have been low on arrival to
   ICU; will hold Lantus for now but when sugars normalize will contineu
   lantus and ISS per home regimen
 DEPRESSION-Continue home paxil
   ICU Care
   Nutrition: renal diabetic diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2136-8-25**] 05:30 PM
   Dialysis Catheter - [**2136-8-25**] 05:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None, Bowel regimen)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: Daughters/HCP: [**Name (NI) 4092**] [**Name (NI) 4093**]
   ([**Telephone/Fax (1) 4094**], cell ([**Telephone/Fax (1) 4095**]); [**First Name8 (NamePattern2) 838**] [**Last Name (NamePattern1) 4096**] (cell [**Telephone/Fax (1) 4097**])
   Code status: Full code
   Disposition: ICU

2136-08-26 08:39:00 Physician Attending Progress Note
Chief Complaint: Catheter related infection
   Hyperkalemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hyperkalemia--Rx with Kayexalate with improvement overnight.
   No evidence of sepsis with absence of fever or hypotension
 EKG - At [**2136-8-25**] 05:25 PM
 DIALYSIS CATHETER - START [**2136-8-25**] 05:38 PM
   Sterile dsg affixed over HD cath with report of yellow pus draining
   from site [**Name6 (MD) **] [**Name8 (MD) **] RN hand off report.
 DIALYSIS CATHETER - STOP [**2136-8-25**] 09:15 PM
   Sterile dsg affixed over HD cath with report of yellow pus draining
   from site [**Name6 (MD) **] [**Name8 (MD) **] RN hand off report.
 EKG - At [**2136-8-26**] 12:31 AM
 ARTERIAL LINE - START [**2136-8-26**] 02:40 AM
   dampened, but good blood return
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;  Shortnes
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-8-25**] 10:00 PM
   Dextrose 50% - [**2136-8-26**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Flowsheet Data as of  [**2136-8-26**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.1
   HR: 87 (78 - 87) bpm
   BP: 63/45(53) {49/32(40) - 71/49(59)} mmHg
   RR: 17 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    706 mL
                                                                    529 mL
   PO:
                                                                    590 mL
                                                                    360 mL
   TF:
   IVF:
                                                                     66 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                    -94 mL
                                                                    529 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, No(t) Tender:
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.5 g/dL
   372 K/uL
   43 mg/dL
   7.2 mg/dL
   26 mEq/L
   6.8 mEq/L
   63 mg/dL
   93 mEq/L
   134 mEq/L
   43.5 %
   6.9 K/uL
        [image002.jpg]
                             [**2136-8-25**]  06:15 PM
                             [**2136-8-26**]  04:06 AM
   WBC
   6.3
   6.9
   Hct
   44.7
   43.5
   Plt
   332
   372
   Cr
   7.2
   Glucose
   43
   Other labs: PT / PTT / INR:14.6/29.8/1.3, Ca++:8.7 mg/dL, Mg++:2.6
   mg/dL, PO4:9.5 mg/dL
   ECG: ECG--Peaked T-waves persist but no signficiant change in
   intervals.
   Assessment and Plan
   62 yo female with history of ESRD now admit with catheter related
   infection and hyperkalemia from dialysis.  She does not have evidence
   of blood cultures showing growth of organisms and does not have
   significant hypotension, fever or tachycardia.
 LINE INFECTION (CENTRAL OR ARTERIAL)
   -Will continue to try maintain patient without HD line for additional
   24 hours but hyperkalemia remains significant
   -No evidence of evolution to sepsis at this time
   -Will continue with Vancomycin IV as primary antibiotic
   -Add Tobra for GNR
s given wound culture results and desire to minimize
   any risk for recurrent infection.
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)-
   -Will need continued managment with Kayexalate as primary modality
   while awaiting dialysis
   -Follow q 4-8 hours depending on stability over the course of the day.
   -Minimize K intake
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   -Renal consult service following patient and current plan is to resume
   dialysis [**2136-8-27**] if patient able to tolerate additional 24 hours given
   concern for infection and repeated infection
   -Agree with Renal consultation to work towards dialysis tomorrow.
 DIABETES MELLITUS (DM), TYPE II
 HYPERCALCEMIA (HIGH CALCIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DEPRESSION
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2136-8-26**] 02:40 AM
   20 Gauge - [**2136-8-26**] 08:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2136-08-27 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2136-8-26**] 12:06 PM
 EKG - At [**2136-8-26**] 05:29 PM
 EKG - At [**2136-8-27**] 12:00 AM
   -K trend, 6.8, 6.8, 5.8, 5.0, 4.7, 4.4
   -T wave peaks in V2, no other EKG changes
   - continues large stool output
   - SBP 80s, gave 250cc x3 bolus with temporary response.  HD tunneled
   line placement by IR today, also will get HD today
   - Reported chest pressure this AM. Reproducible with palpation. Seem
   non-cardiogenic. ECG NL. Enzymes sent, negative so far.
   - Per nursing report, Pt has sleep apnea, which is a known issue for
   her. She refuses CPAP at night.  Destats and has apneas at night
   Allergies:
   Penicillins
   Rash;  Shortnes
   Last dose of Antibiotics:
   Ceftazidime - [**2136-8-26**] 12:00 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2136-8-26**] 09:00 AM
   Dextrose 50% - [**2136-8-26**] 09:02 AM
   Heparin Sodium (Prophylaxis) - [**2136-8-26**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-8-27**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 89 (83 - 95) bpm
   BP: 103/32(49) {74/17(40) - 116/56(63)} mmHg
   RR: 8 (6 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 100 kg
   Height: 66 Inch
             Total In:
                                                                  2,882 mL
                                                                    465 mL
   PO:
                                                                  1,760 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    972 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                  2,882 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GEN NAD, sleepy
   HEENT: Dry MM, no JVD
   CV: RRR, S1S2 NL, no S3S4. III/VI systolic ejection murmur
   PULM: Some wheezes on the R, CTA on the L
 limited exam [**2-18**] Pt
   participation
   GI: BS+, NTND, no masses or HSM
   LIMBS: Sore L calf
   NEURO: no pronator drift but ?flapping tremor
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Labs / Radiology
   310 K/uL
   12.5 g/dL
   118 mg/dL
   8.1 mg/dL
   26 mEq/L
   4.4 mEq/L
   61 mg/dL
   89 mEq/L
   135 mEq/L
   40.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2136-8-25**]  06:15 PM
                             [**2136-8-26**]  04:06 AM
                             [**2136-8-26**]  05:34 PM
                             [**2136-8-27**]  04:20 AM
   WBC
   6.3
   6.9
   6.0
   Hct
   44.7
   43.5
   40.4
   Plt
   332
   372
   310
   Cr
   7.2
   7.7
   8.1
   Glucose
   43
   109
   118
   Other labs: PT / PTT / INR:14.6/32.3/1.3, ALT / AST:26/18, Alk Phos / T
   Bili:273/0.2, Amylase / Lipase:105/19, Albumin:3.8 g/dL, LDH:155 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:10.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   A/P:62 yo female with h/o ESRD on HD, multiple line infections,
   Diastolic CHF, IDDM and bilateral DVTs on coumadin who presents from
   dialysis with pus coming from HD site and hyperkalemia
 LINE INFECTION (CENTRAL OR ARTERIAL)-HD line
   - Pt remains afebrile without leukocytosis but line clearly
   demonstrates infection and grew out proteus (sparse growth) and staph
   [**8-24**]-line d/ced by surgery [**8-25**].  It was granulated and difficult for
   removal. To receive new line [**2136-8-27**]
   -f/u line tip culture
    - receiving ceftazidine and vancomycin (d 2 today of ceftaz and d 3 of
   vanc). Since Pt had allergy to ceftriaxone in the [**Last Name (LF) **], [**First Name3 (LF) 178**] discuss
   gentamicin with ID and D/C ceftazidine once GNR coverage is determined
   -f/u blood cultures, wound culture positive x 1 for Proteus and MSSA
   -renal following
   -IR to replace line today so pt can receive HD
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)-Pt with elevated K
   likely [**2-18**] renal failure; currently s/p treatment with Ca gluconate,
   Insulin, dextrose and kayexalate x6, albuterol nebs
   -Continue to treat medically. At this time K is WNL. HD should obviate
   need for further aggressive management.
   -Monitor K q4 hours
   -Monitor on tele
   -also send for hemolysis labs to help explain the rise in K after it is
   brought down (consider today, but unlikely given WNL LDH)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD) -Pt
   routinely gets HD T,[**Doctor First Name **],Sat but did not complete HD today [**2-18**] presumed
   line infection.  HD line to be removed today per surgery.  Renal aware
   of pt and will give line holiday
   -Plan for new line today
   -Continue sevelamer and cinalcalcet per home regimen
   - Avoid Pi loads given hyperphosphatemia
 DIABETES MELLITUS (DM), TYPE II-Sugars have been low on arrival to
   ICU; will hold Lantus for now but when sugars normalize will contineu
   lantus and ISS per home regimen
  Chest pain: Seems non-cardiogenic. Occurred today after discussing
   tunneled line, which Pt opposed initially. Reproducible with pressure
   on location. Described as pressure and pain. No radiation. No ECG
   changes or SOB.
   -          F/U with serial cardiac enzymes
   -          Consider uremia as possible cause given last HD was 5 days
   ago and Pt has asterixis
   -          Pt on tele
 DEPRESSION-Continue home paxil
Hypotension: BP 74/32 at 4am ON, responded to fluid bolus x3
 Hx DVT admitted on Coumadin. Holding until line placed (m/l)
   ICU Care
   Nutrition: renal diabetic diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2136-8-25**] 05:30 PM
   Dialysis Catheter - [**2136-8-25**] 05:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None, Bowel regimen)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: Daughters/HCP: [**Name (NI) 4092**] [**Name (NI) 4093**]
   ([**Telephone/Fax (1) 4094**], cell ([**Telephone/Fax (1) 4095**]); [**First Name8 (NamePattern2) 838**] [**Last Name (NamePattern1) 4096**] (cell [**Telephone/Fax (1) 4097**])
   Code status: Full code
   Disposition: ICU

2136-08-28 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2136-8-27**] 12:00 PM
   Temporary fem line placed, also has bl jugular vein thromboses- Need to
   ask about starting coumadin/heparin.
   C/o "not feeling right", shaking, blurry vision, denied pain.  Sent
   lytes, EKG unchanged.  Resolved following dialysis.
   In the AM had coarse twitches and sleepiness. Sent off ammonia, TSH,
   and chem. Panel. All NL so far. Pt improved as she woke up and
   underwent HD.
   Had 3 hrs HD on [**8-27**], 300 mL removed, plan for 5 hrs on [**8-28**]
   Was not called out, will call out in morning
   Cycyling CE
 EKG - At [**2136-8-27**] 08:15 PM
   taken for chest pain, labs drawn, team informed and will review
 EKG - At [**2136-8-27**] 10:34 AM
   taken for chest pain, labs drawn, team informed and will review
   Allergies:
   Penicillins
   Rash;  Shortnes
   Last dose of Antibiotics:
   Ceftazidime - [**2136-8-26**] 12:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2136-8-27**] 02:00 PM
   Pantoprazole (Protonix) - [**2136-8-27**] 04:25 PM
   Heparin Sodium (Prophylaxis) - [**2136-8-28**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-8-28**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.7
   HR: 84 (84 - 101) bpm
   BP: 46/31(38) {46/30(37) - 94/43(54)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 100 kg
   Height: 66 Inch
             Total In:
                                                                  2,067 mL
                                                                     60 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  1,867 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,467 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.19/80.[**Numeric Identifier 248**]/104/29/0
   Physical Examination
   GEN NAD, sleepy, involuntary movements
   HEENT: MMM, no LAD, EOM NL, PERRLA. Old line site on L still somewhat
   tender and swollen
   CV: RRR tachycardia, S1S2 NL, no S3S4 MRG or JVD. No friction rub
   PULM: Poor participation. Crackles in the L base > R base and some
   ?wheezes on the L
   ABD: BS+, NTND no HSM or masses
   FEMORAL LINE: No erythema or hematoma
   Labs / Radiology
   277 K/uL
   12.1 g/dL
   109 mg/dL
   6.0 mg/dL
   29 mEq/L
   3.3 mEq/L
   36 mg/dL
   96 mEq/L
   139 mEq/L
   38.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2136-8-25**]  06:15 PM
                             [**2136-8-26**]  04:06 AM
                             [**2136-8-26**]  05:34 PM
                             [**2136-8-27**]  04:20 AM
                             [**2136-8-27**]  10:40 AM
                             [**2136-8-27**]  05:30 PM
                             [**2136-8-27**]  08:05 PM
                             [**2136-8-28**]  03:50 AM
                             [**2136-8-28**]  04:12 AM
   WBC
   6.3
   6.9
   6.0
   9.1
   Hct
   44.7
   43.5
   40.4
   38.6
   Plt
   332
   372
   310
   277
   Cr
   7.2
   7.7
   8.1
   8.9
   6.0
   TropT
   <0.01
   <0.01
   0.03
   TCO2
   32
   Glucose
   43
   109
   118
   119
   109
   Other labs: PT / PTT / INR:14.8/34.3/1.3, CK / CKMB /
   Troponin-T:29/2/0.03, ALT / AST:22/16, Alk Phos / T Bili:253/0.3,
   Amylase / Lipase:77/16, Lactic Acid:0.7 mmol/L, Albumin:3.8 g/dL,
   LDH:190 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:8.2 mg/dL
   Assessment and Plan
   A/P:62 yo female with h/o ESRD on HD, multiple line infections,
   Diastolic CHF, IDDM and bilateral DVTs on coumadin who presents from
   dialysis with pus coming from HD site and hyperkalemia. At this time
   improving on HD and medical management.
 LINE INFECTION (CENTRAL OR ARTERIAL)-HD line pulled and covered with
   appropriate Abx. Leukocytosis improving.
   - Pt remains afebrile without leukocytosis but line clearly
   demonstrated infection and grew out proteus MSSA. Line d/ced by surgery
   [**8-25**].  It was granulated and difficult for removal.
   - wound culture positive for Proteus and MSSA, line tip culture sterile
   as of [**2136-8-28**], blood cultures no growth so far
    - receiving ceftazidine and vancomycin (d 3 today of ceftaz and d 4 of
   vanc). Pt had allergy to ceftriaxone in the ED but tolerating
   ceftazidine well. Plan to continue Abx for 14 days total
   -renal following
   -IR placed femoral catheter on [**2136-8-27**]
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)-Pt with elevated K
   likely [**2-18**] renal failure; currently s/p treatment with Ca gluconate,
   Insulin, dextrose and kayexalate x6, albuterol nebs
   - At this time K is WNL. HD should obviate need for further aggressive
   management.
   - no need to monitor K more than qDay at this time
   - Etiology for hyperK still unclear. Hemolysis labs WNL
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD) -Pt
   routinely gets HD T,[**Doctor First Name **],Sat but missed HD for 4 days after line was
   pulled for infection.
   -Temporary femoral line placed [**2136-8-27**]. Permanent line not placed [**2-18**]
   bilat internal jugular vein thromboses
   -Continue sevelamer and cinalcalcet
   - Avoid Pi loads given hyperphosphatemia
   - Access is a major long term problem for this patient
   - Start mitodrine for HoTN with dialysis
 SLEEP APNEA: Pt desats with apneas at night. pCO2 was 80 ON with pH
   7.19 and O2 104 on 3L. Improved to pCO2 63 pH 7.26 O2 80 on 1L with
   waking
   - Encourage CPAP with sleep
   - Pt to be on1L O2 ON
   - D/c O/N blood gasses
 DIABETES MELLITUS (DM), TYPE II-Sugars have been low on arrival to
   ICU; will hold Lantus for now but when sugars normalize will contineu
   lantus and ISS per home regimen
  CHEST PAIN: Seems non-cardiogenic. Occurred today after discussing
   tunneled line, which Pt opposed initially. Reproducible with pressure
   on location. Described as pressure and pain. No radiation. No ECG
   changes or SOB.
   - F/U with serial cardiac enzymes. Trp trended up to 0.03, but unclear
   if this is [**2-18**] low GFR or true leak.
   - ECGs without any ST-T changes
   -  Consider uremia as possible cause given last HD was 5 days ago and
   Pt has asterixis
   - Pt on tele
   - ECHO today or tomorrow
 MACROCYTOSIS: Pt with MCV 102, persistently in the 100s this
   admission with NL folate and B12 within a month.
   - Etiology could be uremia, hypothyroidism, or reticulocytosis
   - Chest TSH today
 DEPRESSION-Continue home paxil
HYPOTENSION: Holding BPs well
 Hx DVT admitted on Coumadin. Awaiting call from IR for when to
   restart
   ICU Care
   Nutrition: renal diabetic diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2136-8-25**] 05:30 PM
   R Femoral Dialysis Catheter - [**2136-8-27**]
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None, Bowel regimen)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: Daughters/HCP: [**Name (NI) 4092**] [**Name (NI) 4093**]
   ([**Telephone/Fax (1) 4094**], cell ([**Telephone/Fax (1) 4095**]); [**First Name8 (NamePattern2) 838**] [**Last Name (NamePattern1) 4096**] (cell [**Telephone/Fax (1) 4097**])
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-8-26**] 02:40 AM
   20 Gauge - [**2136-8-26**] 08:05 AM
   Dialysis Catheter - [**2136-8-27**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: